US07816401B2
(2) Synthesis of ({[(2S)-4-methoxy-2-methylbut-3-en-1-yl]oxy}methyl)benzene (P21)
After potassium tert-butoxide (0.76 g, 6.76 mmol) was added to a THF (20 ml) solution of (methoxymethyl)triphenylphosphonium chloride (2.54 g, 7.40 mmol) while ice cooling, the mixture was stirred at room temperature for 30 minutes. Subsequently a THF (5 ml) solution of the above aldehyde was added dropwise to this reaction solution at room temperature and stirred for 12 hours. After the reaction solution was diluted with ethyl acetate, it was washed with water and brine. After the organic layer was dried over anhydrous magnesium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:ethyl acetate=100:1) to obtain the title compound (0.44 g) as a colorless oil. Title compound was determined to be a mixture of E:Z=2:1 by 1H-NMR.

reactant | potassium tert-butoxide | 6.76 mmol, 0.76 g | CC(C)([O-])C.[K+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | (methoxymethyl)triphenylphosphonium chloride | 7.40 mmol, 2.54 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ({[(2S)-4-methoxy-2-methylbut-3-en-1-yl]oxy}methyl)benzene | 0.44 g | COC=C[C@@H](COCC1=CC=CC=C1)C | C13H18O2
